US07557114B2
(b) 5-(2-Methyl-tetrahydro-furan-3-yl)-2,3-dihydro-1H-isoindole
Prepared in analogy to Example A62(c) from 2-benzyl-5-(2-methyl-2,5-dihydro-furan-3-yl)-2,3-dihydro-1H-isoindole and hydrogen. Yellow oil. MS (m/e): 204.1 ([M+H]+, 100%).

reactant | 2-benzyl-5-(2-methyl-2,5-dihydro-furan-3-yl)-2,3-dihydro-1H-isoindole | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C=1C(OCC1)C | C20H21NO
reactant | hydrogen | [H][H] | H2
product | 5-(2-Methyl-tetrahydro-furan-3-yl)-2,3-dihydro-1H-isoindole | CC1OCCC1C=1C=C2CNCC2=CC1 | C13H17NO
